US09023847B2
20. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(3-chlorophenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 396 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.59 (1H, br. s.) 10.29 (1H, s) 8.19 (1H, t, J=5.71 Hz) 8.03 (1H, d, J=5.47 Hz) 7.78 (1H, d, J=5.42 Hz) 7.47 (1H, d, J=5.37 Hz) 7.32 (2H, td, J=3.77, 1.93 Hz) 7.27 (1H, d, J=7.27 Hz) 7.22 (1H, t, J=1.83 Hz) 7.17 (1H, t, J=1.56 Hz) 6.81 (1H, d, J=5.52 Hz) 6.45 (1H, dd, J=3.49, 1.68 Hz) 3.43-3.51 (2H, m) 2.84 (2H, t, J=7.32 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(3-chlorophenyl)ethylamine | ClC=1C=C(C=CC1)CCN | C8H10ClN
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide | ClC=1C=C(C=CC1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H17ClN4OS
